US04104385
A better procedure for preparing 3-amino-6-amino-6-(1-pyrrolidinyl)pyridazine is given as follows: a mixture containing 80 g. of 3-amino-6-chloropyridazine, 105 ml. of pyrrolidine, 1.2 liters of N,N-dimethylaniline and 1 g. of copper bronze powder was heated with stirring at 130°-135° C. for 18 hours. When a TLC test indicated that starting material was still present, an additional 50 ml. portion of pyrrolidine in 200 ml. of N,N-dimethylaniline was added to the reaction mixture followed by more copper bronze powder and the reaction mixture was heated for an additional 24 hours. The reaction mixture was cooled to 30° C. and filtered. The filtrate was concentrated under oil pump vacuum to leave a crystalline solid. The solid was slurried with isopropyl alcohol while chilling the mixture in an ice bath. The solid was collected, washed with a small amount of cold isopropyl alcohol and dried in a vacuum oven at 60° C. to produce 53 g. (76% yield) of 3-amino-6-(1-pyrrolidinyl)-pyridazine, m.p. 209°-211° C. A TLC check of the filtrate indicated that it contained more of the product, which was not isolated. The intermediate 3-amino-6-(1-pyrrolidinyl)pyridazine prepared by said better procedure was used in the preparation of the final product as described in the second paragraph of (Example D-4) described hereinbelow.

reactant | 3-amino-6-amino-6-(1-pyrrolidinyl)pyridazine | NC1=NNC(C=C1)(N1CCCC1)N | C8H15N5
reactant | 3-amino-6-chloropyridazine | NC=1N=NC(=CC1)Cl | C4H4ClN3
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | N,N-dimethylaniline | 1.2 liters | CN(C1=CC=CC=C1)C | C8H11N
catalyst | copper bronze | [Cu] | Cu
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 3-amino-6-(1-pyrrolidinyl)-pyridazine | 76% yield | NC=1N=NC(=CC1)N1CCCC1 | C8H12N4
